US06329529B1
Synthesis of 2-fluoro-1,3-dimethylimidazolinium iodide (DMFI)
To a 300 ml four necked flask, 13.56 g (0.10 mol) of 2-fluoro-1,3-dimethylimidazolidine (DFI), 15.0 g (0.10 mol) of sodium iodide and 125 g of acetonitrile were charged and reacted at 25° C. for 4 hours in a nitrogen atmosphere under light shielding. The yield of 2-fluoro-1,3-dimethylimidazolinium=iodide (DMFI) was 95%.

reactant | 2-fluoro-1,3-dimethylimidazolidine | 0.10 mol, 13.56 g | FC1N(CCN1C)C | C5H11FN2
reactant | sodium iodide | 0.10 mol, 15.0 g | [I-].[Na+]
reactant | 2-fluoro-1,3-dimethylimidazolinium | FC1[NH+](CCN1C)C
reactant | iodide | [I-]
solvent | acetonitrile | 125 g | C(C)#N | C2H3N
product | 2-fluoro-1,3-dimethylimidazolinium iodide | [I-].FC1[NH+](CCN1C)C | InChI=1S/C5H11FN2.HI/c1-7-3-4-8(2)5(7)6;/h5H,3-4H2,1-2H3;1H
